US07786108B2
Step 1. Preparation of 2-Hydroxyimino-N-indan-5-yl-acetamide
To a solution of chloral hydrate (5.56 g, 33.63 mmol) and anhydrous sodium sulfate (28.58 g, 201.20 mmol) in water (90 mL) add a mixture of hydroxylamine sulfate (25.63 g, 156.16 mmol), 5-aminoindane (4 g, 30.03 mmol), concentrated hydrochloric acid (3.14 mL) in water (30 mL). Heat the mixture at 45° C. for 1 h and at 75° C. for 2 h. Cool the mixture to room temperature and filter the solid. Wash the solid with water and ethyl ether. Dry the solid under vacuum to yield the title compound (4.98 g, 81%). 1H NMR (dimethyl sulfoxide-d6, 300 MHz) δ 1.90 (quintuplet, J=7.8 Hz, 2H), 2.72 (q, J=7.8 Hz, 4H), 7.06 (d, J=8.2 Hz, 1H), 7.28 (dd, J=1.5, 8.2 Hz, 1H), 7.49 (bs, 1H), 9.94 (s, 1H), 12.02 (s, 1H). MS (ES−): 203 (M−H).

reactant | chloral hydrate | 33.63 mmol, 5.56 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 201.20 mmol, 28.58 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine sulfate | 156.16 mmol, 25.63 g | S(=O)(=O)(O)O.NO
reactant | 5-aminoindane | 30.03 mmol, 4 g | NC=1C=C2CCCC2=CC1 | C9H11N
reactant | hydrochloric acid | 3.14 mL | Cl | ClH
solvent | water | 90 mL | O | H2O
solvent | water | 30 mL | O | H2O
product | 2-Hydroxyimino-N-indan-5-yl-acetamide | 4.98 g, 81% | ON=CC(=O)NC=1C=C2CCCC2=CC1 | C11H12N2O2
